US07618960B2
Synthesis of 1-[(S)-1-(4-fluorophenyl)ethylamino]propan-2-ol
Sodium borohydride (2.39 g) was added to a solution of 1-[(S)-1-(4-fluorophenyl)ethylamino]propan-2-one (2.5 g) in ethanol (25 mL) under ice-cooling, and then the reaction solution was stirred at room temperature for one hour. The reaction solution was diluted with ice water and ethyl acetate, and then the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography using a silica gel (chloroform:2-propanol=100:1 to 0:100) to obtain 1.18 g of the title compound as a diastereomer mixture.

reactant | Sodium borohydride | 2.39 g | [BH4-].[Na+]
reactant | 1-[(S)-1-(4-fluorophenyl)ethylamino]propan-2-one | 2.5 g | FC1=CC=C(C=C1)[C@H](C)NCC(C)=O | C11H14FNO
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[(S)-1-(4-fluorophenyl)ethylamino]propan-2-ol | 1.18 g | FC1=CC=C(C=C1)[C@H](C)NCC(C)O | C11H16FNO
